US05498777
A solution of ethyl 4-aminobenzoate (8.26 g, 0.05 mol) in acetic acid (100 mL) was treated with potassium thiocyanate (14.58 g, 0.15 mol) and stirred 10 minutes at room temperature to dissolve the salt. The resulting solution was cooled in an ice bath and stirred while bromine (2.6 mL, 0.05 mol) was added dropwise over 15 minutes. The cooling bath was removed and the mixture was stirred at room temperature for 2.25 hours. The mixture was stored at 5° C. for 5 hours, then filtered to remove the yellow precipitate. The filter cake was washed with diethyl ether (2×50 mL) and water (2×100 mL) and dried under vacuum to give 2-amino-6-ethoxycarbonylbenzothiazole (2.54 g) as a yellow solid.

reactant | ethyl 4-aminobenzoate | 0.05 mol, 8.26 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | potassium thiocyanate | 0.15 mol, 14.58 g | [S-]C#N.[K+]
reactant | bromine | 0.05 mol, 2.6 mL | BrBr | Br2
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 2-amino-6-ethoxycarbonylbenzothiazole | 2.54 g | NC=1SC2=C(N1)C=CC(=C2)C(=O)OCC | C10H10N2O2S
